US20010027196A1
2-Amino-4-benzylamino-6-(5-methyl-furan-2-yl)-pyrimidine-5-carbonitrile
From 2-amino-4-methanesulfinyl-6-(5-methyl-furan-2-yl)-pyrimidine-5-carbonitrile and benzylamine in DME. ES-MS m/e (%): 306 (M+H+, 100).

reactant | 2-amino-4-methanesulfinyl-6-(5-methyl-furan-2-yl)-pyrimidine-5-carbonitrile | NC1=NC(=C(C(=N1)S(=O)C)C#N)C=1OC(=CC1)C | C11H10N4O2S
reactant | benzylamine | C(C1=CC=CC=C1)N | C7H9N
solvent | DME | COCCOC | C4H10O2
product | 2-Amino-4-benzylamino-6-(5-methyl-furan-2-yl)-pyrimidine-5-carbonitrile | NC1=NC(=C(C(=N1)NCC1=CC=CC=C1)C#N)C=1OC(=CC1)C | C17H15N5O
